US04113943
DL-α-[(2-Amino-1,2-dioxoethyl)amino]phenylacetic acid, diphenylmethyl ester
A mixture of 10mM of DL-α-[(2-ethoxy-1,2-dioxoethyl)-amino]phenylacetic acid, diphenylmethyl ester in 50 ml. of ethanol containing 13mM of ammonia is stirred for 15 minutes. After a short time, a thick slurry forms. The product, DL-α-[(2-amino-1,2-dioxoethyl)amino]phenylacetic acid, diphenylmethyl ester, is filtered off and recrystallized from toluene in the form of white filaments, m.p. 168°.

reactant | α-[(2-ethoxy-1,2-dioxoethyl)-amino]phenylacetic acid, diphenylmethyl ester | C(C)OC(C(=O)NC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H23NO5
reactant | ammonia | N | H3N
solvent | ethanol | 13mM | C(C)O | C2H6O
product | α-[(2-Amino-1,2-dioxoethyl)amino]phenylacetic acid, diphenylmethyl ester | NC(C(=O)NC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H20N2O4
